US07053107B2
2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-N-prop-2-ynyl-benzamide
To 2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-benzoic acid (49 mg, 0.105 mmol) was added 2 mL of a 90:10:1 mixture of CH2Cl2:TFA:TES. The reaction was stirred at reflux for 1 hour, and then diluted with toluene (20 mL). The solvent was removed by rotary evaporation to yield a thick oil. The oil was dissolved in DMF (1 mL) and to this solution was added TEA (0.072 mL, 0.52 mmol), propargyl amine (0.014 mL, 0.208 mmol), and HATU (59 mg, 0.156 mmol). The reaction was stirred for 3 hours, and then purified by preparatory HPLC to yield the desired product (29 mg, 66%). 1H NMR (CDCL3-d): δ 9.83 (1H, s), 8.63 (2H, s), 8.04 (2H, m), 7.68 (2H, s), 7.47 (1H, m), 7.32 (1H, d, J=1.51 Hz), 7.10 (1H, dd, J1=8.67 Hz, J2=1.88 Hz), 6.93 (1H, m), 6.07 (2H, dd, J1=5.09 Hz, J2=2.26 Hz), 3.15 (1H, t, J=2.35 Hz), 2.97 (2H, s), 2.74 (1H, s), 2.29 (1H, s), 1.27 (3H, t, J=7.44 Hz)

reactant | 2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-benzoic acid | 0.105 mmol, 49 mg | C(C)C=1C=CC(=NC1)C=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1 | C23H20N4O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | propargyl amine | 0.208 mmol, 0.014 mL | C(C#C)N | C3H5N
reactant | HATU | 0.156 mmol, 59 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-N-prop-2-ynyl-benzamide | 29 mg, 66% | C(C)C=1C=CC(=NC1)C=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)NCC#C)C=CC=C1 | C26H23N5O
